US08497281B2
Step 4: 5,6-dihydro-benzo[f]quinoline
N,N-Dimethylacetamide (15 mL) is added to a flask charged with a stir bar, 3-bromo-2-phenethyl-pyridine (3.34 g), freshly dried K2CO3 (3.52 g), palladium(II) acetate (0.14 g), and tricyclohexylphosphonium tetrafluoroborate (0.47 g) and kept under argon atmosphere at room temperature. The flask is put into a 150° C. hot oil bath and the mixture is stirred therein for 2 h. After cooling the mixture to room temperature, the solvent is evaporated and the residue is chromatographed twice on silica gel (1. dichloromethane/methanol 98:2; 2. cyclohexane/ethyl acetate 90:10→50:50) to afford the title compound as an oil. Yield: 1.51 g (65% of theory); LC (method 1): tR=1.83 min; Mass spectrum (ESI+): m/z=182 [M+H]+.

reactant | 3-bromo-2-phenethyl-pyridine | 3.34 g | BrC=1C(=NC=CC1)CCC1=CC=CC=C1 | C13H12BrN
reactant | K2CO3 | 3.52 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tricyclohexylphosphonium tetrafluoroborate | 0.47 g | F[B-](F)(F)F.C1(CCCCC1)[PH+](C1CCCCC1)C1CCCCC1
catalyst | palladium(II) acetate | 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-Dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 5,6-dihydro-benzo[f]quinoline | C1=CC=NC=2CCC3=C(C12)C=CC=C3 | C13H11N
